* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1724.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 2K
R2 N001 IN 750
V3 IN 0 SINE(0 1 1Meg)
C1 N002 N001 5p
R3 N004 N003 2K
R4 N003 IN 2K
C2 N004 N003 5p
R5 IN 0 72
R6 N002 OUT+ 62.5
R7 N004 OUT- 62.5
X§U1 IN N001 +V -V N002 LT1722
X§U2 0 N003 +V -V N004 LT1722
.tran 3u
* Differential Video Line Driver
.lib LTC.lib
.backanno
.end
